US04542216
4.0 g (0.017 mol) of 2-methylsulfonyl-4-difluoromethoxy-6-methylpyrimidine are suspended in 60 ml of chloroform. This suspension is saturated with gaseous ammonia, and then stirred for 3 hours at a temperature of between 20° and 25° C. The reaction mixture is subsequently diluted with 50 ml of methylene chloride; the organic phase is separated, washed with water and concentrated by evaporation. There are obtained, as crystalline residue, 2.5 g (85% of theory) of 2-amino-4-difluoromethoxy-6-methylpyrimidine, m.p. 137°-139° C.

reactant | 2-methylsulfonyl-4-difluoromethoxy-6-methylpyrimidine | 0.017 mol, 4.0 g | CS(=O)(=O)C1=NC(=CC(=N1)OC(F)F)C | C7H8F2N2O3S
reactant | ammonia | N | H3N
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-amino-4-difluoromethoxy-6-methylpyrimidine | 2.5 g, 85% | NC1=NC(=CC(=N1)OC(F)F)C | C6H7F2N3O
